US08871753B2
Step B: 2-[2-(5-Aminopyridin-3-yl)ethyl]-N(4)-(2-chloro-5-methylpyrimidin-4-yl)benzene-1,4-diamine trihydrochloride
Into the reaction flask was added tert-butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-methylpyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate (0.030 g, 0.054 mmol), methanol (0.6 mL), and 4.0 M of hydrogen chloride in 1,4-dioxane (1 mL). The mixture was stirred at rt overnight and concentrated to give the desired product (21 mg, 95%). LCMS for C18H20ClN6 (M+H)+: m/z=355.1.

reactant | tert-butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-methylpyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 0.054 mmol, 0.030 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1C)Cl)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C28H35ClN6O4
reactant | methanol | 0.6 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(5-Aminopyridin-3-yl)ethyl]-N(4)-(2-chloro-5-methylpyrimidin-4-yl)benzene-1,4-diamine trihydrochloride | 21 mg, 95% | Cl.Cl.Cl.NC=1C=C(C=NC1)CCC1=C(C=CC(=C1)NC1=NC(=NC=C1C)Cl)N | InChI=1S/C18H19ClN6.3ClH/c1-11-8-23-18(19)25-17(11)24-15-4-5-16(21)13(7-15)3-2-12-6-14(20)10-22-9-12;;;/h4-10H,2-3,20-21H2,1H3,(H,23,24,25);3*1H
